US04950705
(Synthesis of 2,4-octanedione cobalt complex)
Four grams (0.1 mol) of sodium hydroxide were dissolved in 150 cc of water. To this solution, 14.2 g (0.1 mol) of 2,4-octanedione were added slowly while stirring. After the dissolution had been completed, the obtained solution was dripped taking 10 minutes while vigorously stirring into a cobalt (II) chloride aqueous solution which had been prepared in advance by dissolving 11.9 g (0.05 mol) of hexahydrated cobalt (II) chloride in 200 cc of water. The produced rose-red-colored precipitate was separated by filtration and washed with water until the washing water became substantially colorless, followed by vacuum drying to obtain 15.1 g of the object: 2,4-octanedione cobalt complex.

reactant | sodium hydroxide | 0.1 mol, Four grams | [OH-].[Na+]
reactant | 2,4-octanedione | 0.1 mol, 14.2 g | CC(CC(CCCC)=O)=O | C8H14O2
reactant | cobalt (II) chloride | [Co](Cl)Cl
solvent | water | 150 cc | O | H2O
solvent | water | 200 cc | O | H2O
product | 2,4-octanedione cobalt | [Co].CC(CC(CCCC)=O)=O | InChI=1S/C8H14O2.Co/c1-3-4-5-8(10)6-7(2)9;/h3-6H2,1-2H3;
